*SRC=DMMT3904W;DI_DMMT3904W;BJTs NPN; Si;  40.0V  0.200A  347MHz   Diodes
*Inc. Matched Transistor
.subckt DMMT3904W b2 b1 c1 e1 e2 c2
*                                  1  2   3   4   5   6
Q1 c1 b1 e1 DI_DMMT3904W
Q2 c2 b2 e2 DI_DMMT3904W
.MODEL DI_DMMT3904W  NPN (IS=20.3f  BF=274 VAF=114
+ IKF=36.4m ISE=6.99p NE=2 BR=4
+ VAR=24.0 IKR=90.0m RE=0.657 RB=2.63 RC=0.263
+ XTB=1.5 CJE=8.29p VJE=1.1 MJE=0.5 CJC=7.1p VJC=0.3
+ MJC=0.300 TF=426p TR=71.3n EG=1.12 )
.ends DMMT3904W